US07202364B2
A mixture of 6-amino-2-naphthoic acid ethyl ester (500 mg, 2.32 mmol) and nitrosonium tetrafluoroborate (298 mg, 2.56 mmol) in 1,2-dichlorobenzene (10 mL) is stirred at room temperature for 12 hours and at 110° C. for 1 hour. After cooling to room temperature, the reaction mixture is concentrated by rotary evaporator under high vacuum. The residual oil is purified by flash chromatography on silica gel (dichloromethane) to give 6-fluoro-2-naphthoic acid ethyl ester as a yellow oil.

reactant | 6-amino-2-naphthoic acid ethyl ester | 2.32 mmol, 500 mg | C(C)OC(=O)C1=CC2=CC=C(C=C2C=C1)N | C13H13NO2
reactant | nitrosonium tetrafluoroborate | 2.56 mmol, 298 mg | F[B-](F)(F)F.N#[O+]
solvent | 1,2-dichlorobenzene | 10 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 6-fluoro-2-naphthoic acid ethyl ester | C(C)OC(=O)C1=CC2=CC=C(C=C2C=C1)F | C13H11FO2
